US08389524B2
(a) 1,1-Dimethylethyl (3S)-3-{[(trifluoroacetyl)amino]methyl}-1-pyrrolidinecarboxylate
To a 100 mL round-bottomed flask was added 1,1-dimethylethyl (3S)-3-(aminomethyl)-1-pyrrolidinecarboxylate (commercially available) (750 mg, 3.74 mmol) in (DCM) (20 ml) to give a colorless solution. Triethylamine (1.044 ml, 7.49 mmol) was added and the reaction was cooled to 0° C. Trifluoroaceticanhydride (0.635 ml, 4.49 mmol) was added and the reaction was allowed to warm to rt while stirring for 14 h. The solution was diluted with 100 mL DCM and washed with saturated aqueous solution of NaHCO3, and a saturated aqueous solution of NaCl. The organic layer was separated, dried over Na2SO4, filtered and concentrated. The residue was subjected to chromatography on silica to give the product (0.990 g, 3.34 mmol, 89% yield) as a pale yellow oil.

reactant | 1,1-dimethylethyl (3S)-3-(aminomethyl)-1-pyrrolidinecarboxylate | NC[C@H]1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | Triethylamine | 7.49 mmol, 1.044 ml | C(C)N(CC)CC | C6H15N
reactant | Trifluoroaceticanhydride | 4.49 mmol, 0.635 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl (3S)-3-{[(trifluoroacetyl)amino]methyl}-1-pyrrolidinecarboxylate | 3.34 mmol, 0.990 g, 89% yield | FC(C(=O)NC[C@H]1CN(CC1)C(=O)OC(C)(C)C)(F)F | C12H19F3N2O3
